US07253192B2
A] 2-{3-Fluoro-2-methyl-4-[5-(4-trifluoromethoxy-phenyl)-pent-4-ynyloxy]-phenoxy}-2-methyl-propionic acid ethyl ester
In analogy to the procedure described in example 20A], 2-(3-fluoro-4-hydroxy-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester (example 33H]) and methanesulfonic acid 5-(4-trifluoromethoxy-phenyl)-pent-4-ynyl ester (example 1G]) yielded the title compound as light yellow viscous oil.

reactant | 2-(3-fluoro-4-hydroxy-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)OC1=C(C(=C(C=C1)O)F)C)=O | C13H17FO4
reactant | methanesulfonic acid 5-(4-trifluoromethoxy-phenyl)-pent-4-ynyl ester | FC(OC1=CC=C(C=C1)C#CCCCOS(=O)(=O)C)(F)F | C13H13F3O4S
product | 2-{3-Fluoro-2-methyl-4-[5-(4-trifluoromethoxy-phenyl)-pent-4-ynyloxy]-phenoxy}-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)OC1=C(C(=C(C=C1)OCCCC#CC1=CC=C(C=C1)OC(F)(F)F)F)C)=O | C25H26F4O5
